US06956053B2
Step a. 5-(Adamantan-1-yloxymethyl)-2-o-tolyl-2H-pyrazol-3-ol
A mixture of 4-(adamantan-1-yloxy)-3-oxo-butyric acid benzyl ester (334 mg, 0.98 mmol), o-tolyl hydrazine hydrochloride (163 mg, 1.0 mmol), and NEt3 (140 μL, 1.0 mmol) in EtOH (6 mL) was stirred at room temperature for 1 hr. The mixture was evaporated and the residue partitioned between EtOAc (40 mL) and H2O (40 mL). The organic phase was separated, washed with brine (20 mL), and dried (MgSO4). Filtration and evaporation of the solvent gave the crude hydrazone. 1,8-Diazabicyclo[5.4.0]undec-7-ene (150 μl, 1.0 mmol) was added to a solution of the hydrazone in DMF (4 mL), and the solution stirred at room temperature for 17 h. The mixture was partitioned between 5% KHSO4 (60 mL) and EtOAc (60 mL). The organic layer was washed with brine (2×30 mL), and dried (MgSO4). Filtration and evaporation of the solvent gave the product as a solid which was triturated with ether, isolated by filtration and dried (170 mg, 51%).

reactant | 4-(adamantan-1-yloxy)-3-oxo-butyric acid benzyl ester | 0.98 mmol, 334 mg | C(C1=CC=CC=C1)OC(CC(COC12CC3CC(CC(C1)C3)C2)=O)=O | C21H26O4
reactant | o-tolyl hydrazine hydrochloride | 1.0 mmol, 163 mg | Cl.C1(=C(C=CC=C1)NN)C
reactant | NEt3 | 1.0 mmol, 140 μL | CCN(CC)CC | C6H15N
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 1.0 mmol, 150 μl | N12CCCCCC2=NCCC1 | C9H16N2
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-(Adamantan-1-yloxymethyl)-2-o-tolyl-2H-pyrazol-3-ol | C12(CC3CC(CC(C1)C3)C2)OCC=2C=C(N(N2)C2=C(C=CC=C2)C)O | C21H26N2O2
